US06903085B1
Step iii: 2-Chloro-N-[1-[(3,4-difluorophenyl)methyl]-piperidin-4-yl]-acetamide
1-[(3,4-Difluorophenyl)methyl]-piperidin-4-ylamine dihydrochloride (3.18 g) was dissolved in tetrahydrofuran (40 ml). Diisopropylethlamine (6.84 g) and chloroacetyl chloride (1.33 g) were added. After 3 hours water, brine and ethyl acetate were added the phase were separated. The organic phase was dried, filtered and evaporated and the residue was purified by chromatography eluting with ethyl acetate to give the subtitle compound (0.728 g).

reactant | 1-[(3,4-Difluorophenyl)methyl]-piperidin-4-ylamine dihydrochloride | 3.18 g | Cl.Cl.FC=1C=C(C=CC1F)CN1CCC(CC1)N
reactant | Diisopropylethlamine | 6.84 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloroacetyl chloride | 1.33 g | ClCC(=O)Cl | C2H2Cl2O
reactant | water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-N-[1-[(3,4-difluorophenyl)methyl]-piperidin-4-yl]-acetamide | 0.728 g | ClCC(=O)NC1CCN(CC1)CC1=CC(=C(C=C1)F)F | C14H17ClF2N2O
